US04710510
7,7-Dimethyl-2-[4-(1H-imidazol-1-yl)-phenyl]-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
2.0 g. (10.4 mmol) 5,6-diamino-3,3-dimethyl-indolin-2-one, 1.8 g. (10.4 mmol) 4-(1H-imidazol-1-yl)-benzaldehyde, 0.2 g. (1 mmol) p-toluenesulphonic acid and 120 ml. ethanol were mixed together, heated to the boiling point and air passed therethrough for 3 hours. After concentration and acidification with ethanolic hydrochloric acid, the crystallisate obtained was filtered off with suction, suspended in water and neutralised with an aqueous solution of ammonia. The residue obtained was recrystallised from methanol. There was obtained 1.0 g. (28% of theory) of the title compound; m.p. 300° C.

reactant | 5,6-diamino-3,3-dimethyl-indolin-2-one | 10.4 mmol | NC=1C=C2C(C(NC2=CC1N)=O)(C)C | C10H13N3O
reactant | 4-(1H-imidazol-1-yl)-benzaldehyde | 10.4 mmol | N1(C=NC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
reactant | p-toluenesulphonic acid | 1 mmol | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | 7,7-Dimethyl-2-[4-(1H-imidazol-1-yl)-phenyl]-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | CC1(C(NC2=CC3=C(N=C(N3)C3=CC=C(C=C3)N3C=NC=C3)C=C21)=O)C | C20H17N5O
